US05439917
2-Methyl-7-phenacyl-pyrrolo[2,3-b]pyridine hydrochloride
2-Methyl-pyrrolo[2,3-b]pyridine (0.5 g, 3.78 mmol), phenacyl chloride (0.62 g, 4.0 mmol ) and acetonitrile (10 ml) were refluxed for 12 h. The solid was filtered off and washed with cold carbon tetrachlorid (2 ml). The crude product was recrystallized from chloroform/ether, 1:1, to give 0.95 g (88%) title compound.

reactant | 2-Methyl-pyrrolo[2,3-b]pyridine | 3.78 mmol, 0.5 g | CC1=CC=2C(=NC=CC2)N1 | C8H8N2
reactant | phenacyl chloride | 4.0 mmol, 0.62 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-Methyl-7-phenacyl-pyrrolo[2,3-b]pyridine hydrochloride | 0.95 g, 88% | Cl.CC1=CC=2C(N(C=CC2)CC(=O)C2=CC=CC=C2)=N1 | InChI=1S/C16H14N2O.ClH/c1-12-10-14-8-5-9-18(16(14)17-12)11-15(19)13-6-3-2-4-7-13;/h2-10H,11H2,1H3;1H
